US07365225B2
2-hydroxy-5-{[(3-methylbut-2-enoyl)(4-{[(4-pentylbenzyl)amino]carbonyl}-benzyl)amino]methyl}benzoic acid
The title compound was prepared following the procedure A using 4-pentylbenzylamine, 4-(chloromethyl)benzoyl chloride, 3-methylbut-2-enoyl chloride and 6-(aminomethyl)-2,2-dimethyl-4H-1,3-benzodioxin-4-one acetate. M+(ESI): 543.5

reactant | 4-pentylbenzylamine | C(CCCC)C1=CC=C(CN)C=C1 | C12H19N
reactant | 4-(chloromethyl)benzoyl chloride | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
reactant | 3-methylbut-2-enoyl chloride | CC(=CC(=O)Cl)C | C5H7ClO
reactant | 6-(aminomethyl)-2,2-dimethyl-4H-1,3-benzodioxin-4-one acetate | C(C)(=O)O.NCC1=CC2=C(OC(OC2=O)(C)C)C=C1
product | 2-hydroxy-5-{[(3-methylbut-2-enoyl)(4-{[(4-pentylbenzyl)amino]carbonyl}-benzyl)amino]methyl}benzoic acid | OC1=C(C(=O)O)C=C(C=C1)CN(CC1=CC=C(C=C1)C(=O)NCC1=CC=C(C=C1)CCCCC)C(C=C(C)C)=O | C33H38N2O5
